US04855310
To a mixture of 1.5 g of 2,5-dimercapto-1,3,4-thiadiazole, 1.3 g of anhydrous potassium carbonate, and 20 ml of N,N-dimethylformamide was added 1.6 g of 3-bromopropionic acid, whereby the red color of the reaction mixture began to gradually fade and the reaction mixture became yellow. Then, the reaction mixture was poured into 100 ml of ice water and extracted with 30 ml of ethyl acetate three times. The extract thus obtained was washed with water and extracted with 20 ml of an aqueous solution of 5% sodium hydrogen carbonate two times. The extract was washed with ethyl acetate, acidified with diluted hydrochloric acid, and extracted with 30 ml of ethyl acetate three times and the extract thus obtained was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to provide 0.76 g of 3-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]propionic acid.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 1.5 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopropionic acid | 1.6 g | BrCCC(=O)O | C3H5BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]propionic acid | 0.76 g | SC1=NN=C(S1)SCCC(=O)O | C5H6N2O2S3
